US06054587
To a solution of 2-(hydroxymethyl)-1,3-propanediol (1 g, 9.4 mmol) in pyridine (7.5 mL) at 0° C. was added acetic anhydride (0.89 mL, 9.4 mmol) slowly. The resulting solution was warmed to room temperature and stirred for 16 h. The reaction was concentrated under reduced pressure and chromatographed by eluting with methanol-dichloromethane (1:9) to give 510 mg of pure 2-acetoxymethyl-1,3-propanediol.

reactant | 2-(hydroxymethyl)-1,3-propanediol | 9.4 mmol, 1 g | OCC(CO)CO | C4H10O3
reactant | acetic anhydride | 9.4 mmol, 0.89 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 7.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetoxymethyl-1,3-propanediol | 510 mg | C(C)(=O)OCC(CO)CO | C6H12O4
